* Downloaded from: https://github.com/kicad-spice-library/KiCad-Spice-Library
*   2025-11-30
*
* Source File: CD4060B_widh_diodes_vlsiBlkTest.asc
* Developed: ETech (eetech00@yahoo.com)
* Created: Oct 31 2015
* Revision: NA
*
* This CD4060B spice model was tested
* with LTSpice. Temperature is not modeled.
*
* Texas Instruments
* CD4060B 14-Stage Ripple-Carry Binary Counter/Divider with Oscillator
*
* block symbol definitions
.subckt CD4060B RS RST CX Q10Out Q12Out Q13Out Q14Out Q4Out Q5Out Q6Out Q7Out Q8Out Q9Out RX VDD VSS
XX4 RXA CXA VDDA VSS cd40_inv
XX1 RSA RSTC RXA VDDA VSS cd40_nor
XX3 _CXA RSTB O1 VDDA VSS cd40_nor
XX5 RSTA _RSTA VDDA VSS cd40_inv
XX6 _RSTA RSTB VDDA VSS cd40_inv
XX7 _RSTA RSTC VDDA VSS cd40_inv
XX2 CXA _CXA VDDA VSS cd40_schminv
XX8 _O1 O1 _RSTA _Q1 Q1 VDDA VSS cd40_ff
XX9 O1 _O1 VDDA VSS cd40_inv
XX10 _Q1 Q1 _RSTA _Q2 Q2 VDDA VSS cd40_ff
XX11 _Q2 Q2 _RSTA _Q3 Q3 VDDA VSS cd40_ff
XX12 _Q3 Q3 _RSTA _Q4 Q4 VDDA VSS cd40_ff
XX13 _Q4 Q4 _RSTA _Q5 Q5 VDDA VSS cd40_ff
XX14 _Q5 Q5 _RSTA _Q6 Q6 VDDA VSS cd40_ff
XX15 _Q6 Q6 _RSTA _Q7 Q7 VDDA VSS cd40_ff
XX16 _Q7 Q7 _RSTA _Q8 Q8 VDDA VSS cd40_ff
XX17 _Q8 Q8 _RSTA _Q9 Q9 VDDA VSS cd40_ff
XX18 _Q9 Q9 _RSTA _Q10 Q10 VDDA VSS cd40_ff
XX19 _Q10 Q10 _RSTA _Q11 Q11 VDDA VSS cd40_ff
XX20 _Q11 Q11 _RSTA _Q12 Q12 VDDA VSS cd40_ff
XX21 _Q12 Q12 _RSTA _Q13 Q13 VDDA VSS cd40_ff
XX22 _Q13 Q13 _RSTA _Q14 Q14 VDDA VSS cd40_ff
XX23 _Q4 Q4Out VDDA VSS cd40_inv
XX24 _Q5 Q5Out VDDA VSS cd40_inv
XX25 _Q6 Q6Out VDDA VSS cd40_inv
XX26 _Q7 Q7Out VDDA VSS cd40_inv
XX27 _Q8 Q8Out VDDA VSS cd40_inv
XX28 _Q9 Q9Out VDDA VSS cd40_inv
XX29 _Q10 Q10Out VDDA VSS cd40_inv
XX30 _Q12 Q12Out VDDA VSS cd40_inv
XX31 _Q13 Q13Out VDDA VSS cd40_inv
XX32 _Q14 Q14Out VDDA VSS cd40_inv
XX33 RS RSA VDDA VSS cd40_inprot
XX34 RX RXA VDDA VSS cd40_inprot
XX35 RST RSTA VDDA VSS cd40_inprot
XX36 CX CXA VDDA VSS cd40_inprot
R1 VDD VDDA 4
.ic V(CX)=0


.subckt cd40_inv A _A VDD VSS
M2 _A A VSS VSS NA l=9u w=40u
M3 _A A VDD VDD PA l=9u w=40u
C1 A VSS 1.4p
.MODEL NA NMOS (Level=3 VTO=1.7V KP=23U VMAX=1E5 IS=1E-11)
.MODEL PA PMOS (Level=3 VTO=-1.2V KP=15U VMAX=1E5 IS=1E-11)
.ends cd40_inv

.subckt cd40_nor A B _A+B VDD VSS
M1 _A+B A VSS VSS NA l=9u w=40u
M2 20 A VDD VDD PA l=9u w=80u
M3 _A+B B VSS VSS NA l=9u w=40u
M5 _A+B B 20 VDD PA l=9u w=80u
C1 B VSS 2.4p
C2 A VSS 2.4p
C3 _A+B VSS 0.06p
.MODEL NA NMOS (Level=3 VTO=1.7V KP=23U VMAX=1E5 IS=1E-11)
.MODEL PA PMOS (Level=3 VTO=-1.2V KP=15U VMAX=1E5 IS=1E-11)
.ends cd40_nor

.subckt cd40_schminv A _A VDD VSS
M2 30 A VSS VSS NA l=9u w=40u
M3 _A A 20 VDD PA l=9u w=40u
M1 _A A 30 VSS NA l=9u w=40u
M4 20 A VDD VDD PA l=9u w=40u
M5 VSS _A 20 VDD PA l=9u w=40u
M6 VDD _A 30 VSS NA l=9u w=40u
C1 A VSS 2.4p
.MODEL NA NMOS (Level=3 VTO=1.7V KP=23U VMAX=1E5 IS=1E-11)
.MODEL PA PMOS (Level=3 VTO=-1.2V KP=15U VMAX=1E5 IS=1E-11)
.ends cd40_schminv

.subckt cd40_ff _O O R _Q Q VDD VSS
XX1 Q O _O 10 VDD VSS cd40_tg
XX2 10 20 VDD VSS cd40_inv
XX3 R 20 40 VDD VSS cd40_nand
XX4 10 _O O 40 VDD VSS cd40_tg
XX5 20 _O O 30 VDD VSS cd40_tg
XX6 30 O _O Q VDD VSS cd40_tg
XX7 30 R _Q VDD VSS cd40_nand
XX8 _Q Q VDD VSS cd40_inv
.IC V(Q)=0
.ends cd40_ff

.subckt cd40_inprot IN OUT VDD VSS
D1 IN VDD Di
D2 VSS IN Di
R1 OUT IN 200
D3 OUT VDD Di
D4 VSS OUT Di
.MODEL Di D (IS=10p RS=10 N=1.75 M=0.4 Cjo=6p TT=20n)
.ends cd40_inprot

.subckt cd40_tg IN N P OUT VDD VSS
M1 IN N OUT VSS NA l=9u w=80u
M2 OUT P IN VDD PA l=9u w=80u
C1 OUT N 0.12p
C2 IN N 0.12p
C3 P IN 0.12p
C4 P OUT 0.12p
.MODEL NA NMOS (Level=3 VTO=1.7V KP=23U VMAX=1E5 IS=1E-11)
.MODEL PA PMOS (Level=3 VTO=-1.2V KP=15U VMAX=1E5 IS=1E-11)
.ends cd40_tg

.subckt cd40_nand A B _AB VDD VSS
M1 N001 B VSS VSS NA l=9u w=40u
M2 _AB B VDD VDD PA l=9u w=80u
M3 _AB A N001 VSS NA l=9u w=40u
M4 _AB A VDD VDD PA l=9u w=80u
C2 B VSS 2.6p
C1 A VSS 2.6p
.MODEL NA NMOS (Level=3 VTO=1.7V KP=23U VMAX=1E5 IS=1E-11)
.MODEL PA PMOS (Level=3 VTO=-1.2V KP=15U VMAX=1E5 IS=1E-11)
.ends cd40_nand

.ends CD4060B
